US04535073
To a mixture of 3.42 grams of dimethyl 1-(3-nitrobenzylidene)-acetonylphosphonate and 3.13 grams of 2-(N-benzyl-N-methylamino)-ethyl 3-aminocrotonate was added 50 ml of isopropanol and the mixture was heated to reflux for four hours with stirring. The reaction mixture was concentrated in vacuo, the residue was dissolved in ethyl acetate, to this was added 5% hydrochloric acid solution followed by separation, chloroform was added the lower layer followed by separation, the chloroform layer was washed with 5% calcium carbonate solution and then with water, and dried. Chloroform was evaporated in vacuo, the residue was purified by subjecting to silica gel column chromatography (100 grams of silica gel being used; eluting solution is ethyl acetate), and the resulting crystals were recrystallized from a mixture of ethyl acetate and ether to give 1.28 grams (yield 20%) of 2-(N-benzyl-N-methylamino)-ethyl 5-dimethoxyphosphinyl-2,6-dimethyl-4-(3-nitrophenyl)-1,4-dihydropyridine-3-carboxylate, pale yellow crystals, melting point 101°-3° C.

reactant | dimethyl 1-(3-nitrobenzylidene)-acetonylphosphonate | 3.42 grams | [N+](=O)([O-])C=1C=C(C=C(C(=O)C)P(OC)(OC)=O)C=CC1 | C12H14NO6P
reactant | 2-(N-benzyl-N-methylamino)-ethyl 3-aminocrotonate | 3.13 grams | N\C(=C/C(=O)OCCN(C)CC1=CC=CC=C1)\C | C14H20N2O2
solvent | isopropanol | 50 ml | C(C)(C)O | C3H8O
product | 2-(N-benzyl-N-methylamino)-ethyl 5-dimethoxyphosphinyl-2,6-dimethyl-4-(3-nitrophenyl)-1,4-dihydropyridine-3-carboxylate | 1.28 grams, yield 20% | COP(=O)(C=1C(C(=C(NC1C)C)C(=O)OCCN(C)CC1=CC=CC=C1)C1=CC(=CC=C1)[N+](=O)[O-])OC | C26H32N3O7P
